** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/LELO_TEMP_SKY130A/TB_RES_TEMP.sch
**.subckt TB_RES_TEMP
xac2 0 net1 0 JNWTR_RPPO4
xac3 net1 net2 0 JNWTR_RPPO8
V1 net2 0 1
**** begin user architecture code


.param mc_mm_switch=0
.param mc_pr_switch=0

.lib ../../../tech/ngspice/temperature.spi Tt
.lib ../../../tech/ngspice/corners.spi Ktt
.lib ../../../tech/ngspice/supply.spi Vt
.include ../../../../cpdk/ngspice/ideal_circuits.spi

Bt1 vtemp 0 V=TEMPER

.option savecurrents
.save all
.control
optran 0 0 0 10n 1u 0



dc TEMP -40 125 5
write TB_RES_TEMP.raw

exit
.endc



**** end user architecture code
**.ends

* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO4.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sch
.subckt JNWTR_RPPO4 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES4
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO8.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sch
.subckt JNWTR_RPPO8 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES8
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES4.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sch
.subckt JNWTR_RES4 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 P INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES8.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_temp_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sch
.subckt JNWTR_RES8 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 P INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends

.end
