*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELOTEMP_BIAS_IBP_lpe.spi
#else
.include ../../../work/lpe/LELOTEMP_OTAR_lpe.spi
.include ../../../work/xsch/LELOTEMP_BIAS_IBP.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

.ic v(xdut.vd1) = 0.7
.ic v(xdut.vr1) = 0.7
.ic v(lpi) = 0.6

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  0 dc {AVDD}
VPWR PWRUP_1V8 0 dc {AVDD}
VPWRN PWRUP_N_1V8 0 dc 0

V1 IBP_1U<0> 0 dc 0.6


VLP LPI LPO dc 0

Bt1 vtemp 0 V=TEMPER

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi




#ifdef Debug
.save all
.option savecurrents
#endif

.save v(xdut.vr1)
.save v(xdut.vd1)
.save v(vtemp)
.save i(v1)

.control
optran 0 0 0 10n 10u 0
op

dc TEMP -45 125 5

write {cicname}.raw
exit
.endc
.end
