*LELO_TEMP_SKY130A/LELOTEMP_CMP
*----------------------------------------------------------------
* DC transfer of the comparator: trip point, offset and gain.
*
* LELOTEMP_CMP is a PMOS-input diff pair (VIP -> xp_diff2, VIN ->
* xp_diff1) with an NMOS mirror load, followed by a common-source
* stage. VO therefore rises when VIP goes above VIN. In LELOTEMP_CCMP
* VIP is the integrating ramp and VIN is the threshold VC, so the trip
* point measured here is what sets the oscillator period, and the
* offset is a direct temperature error.
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELOTEMP_CMP_lpe.spi
#else
.include ../../../work/xsch/LELOTEMP_CMP.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  0  dc {AVDD}

*- Powered up. The block is wired PWRUP_1V8 <- PWRUP_B_1V8 in CCMP, so
*- the enabled state is this port high and PWRUP_N_1V8 low; both of the
*- power-down devices are then off.
VPWR  PWRUP_1V8    0 dc {AVDD}
VPWRN PWRUP_N_1V8  0 dc 0

*- IBP_1U is a current *input*: xn_mirr_bias1 is an NMOS diode to VSS,
*- so the bias block pushes current in from a PMOS source. Mirror that
*- from VDD so the current shows up in i(VDD) like it does in the top.
IBIAS VDD_1V8 IBP_1U dc {ibias}

*- VIN is the threshold (VC in the real circuit), VIP is swept.
VIN VIN 0 dc {vcm}
VIP VIP 0 dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(vip) v(vin) v(vo) v(vdd_1v8) i(vdd)
.save v(xdut.vo1) v(xdut.vbn1) v(xdut.vbp2) v(xdut.vs)

#ifdef Debug
.option savecurrents
.save all
#endif

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
unset askquit

*- Sweep range is a testbench parameter, not {AVDD}: brace expressions
*- are spice .param syntax and are not evaluated inside .control, so
*- "dc VIP 0 {AVDD}" reaches nutmeg as the literal string "avdd".
*- vsweep_stop covers the highest supply corner.
dc VIP 0 {vsweep_stop} {vstep}

write {cicname}.raw
quit

.endc

.end
