*LELO_TEMP_SKY130A/LELOTEMP_CMPR
*----------------------------------------------------------------
* Propagation delay of the comparator at its real input slope.
*
* In LELO_TEMP the comparator is not driven by a step: VIP is the
* CCMP integrating node, a ramp of ibias into the 5x MIM cap. The
* delay from that ramp crossing VC to VO switching is added to every
* half period of the oscillator, so it is a direct period error -- and
* because it is set by the tail current and the load, it drifts with
* temperature and process in a way the ramp itself does not.
*
* Driving with a ramp rather than a step is the point: a step measures
* a delay the circuit never actually sees.
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELOTEMP_CMPR_lpe.spi
#else
.include ../../../work/xsch/LELOTEMP_CMPR.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4 method=gear

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  0  dc {AVDD}

VPWR  PWRUP_1V8    0 dc {AVDD}
VPWRN PWRUP_N_1V8  0 dc 0

*- CMPR owns the two reset switches on VIP. Hold both off so the
*- comparator sees the driven ramp, the way it does between resets.
VRST  RST 0 dc 0

IBIAS VDD_1V8 IBP_1U dc {ibias}

VIN VIN 0 dc {vcm}

*- The ramp. Flat below the threshold long enough for the comparator to
*- settle, then a constant slope through vcm.
VIP VIP 0 pwl 0 {vramp_lo} {t_ramp_start} {vramp_lo} {t_ramp_stop} {vramp_hi}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(vip) v(vin) v(vo) v(vdd_1v8) i(vdd)
.save v(xdut.vo1) v(xdut.vbn1) v(xdut.vbp2) v(xdut.vs)

#ifdef Debug
.option savecurrents
.save all
#endif

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
unset askquit

optran 0 0 0 1n 1u 0

tran {t_step} {t_stop}

write {cicname}.raw
quit

.endc

.end
